US07598400B2
2-Amino-5-carbamoyl-5-methyl-1-pyrroline N-oxide (NH2-AMPO).
Trapping of GS. and t-BuO. radicals. 50 μL 0.1 M phosphate buffer solution containing 30 mM AMPO and 100 mM GSSG or (CH3)3CO—OC(CH3)3. The mixture was then transferred to 50 μL capillary tube and the radicals were generated by UV photolysis. EPR spectrum of the adduct was recorded over a 5 min time period.

reactant | 5-Carbamoyl-5-methyl-1-pyrroline N-oxide | 30 mM | C(N)(=O)C1(CCC=[N+]1[O-])C | C6H10N2O2
reactant | GSSG | 100 mM | C(CC(=O)N[C@@H](CSSC[C@@H](C(=O)NCC(=O)O)NC(=O)CC[C@@H](C(=O)O)N)C(=O)NCC(=O)O)[C@@H](C(=O)O)N | C20H32N6O12S2
reactant | (CH3)3CO—OC(CH3)3 | C(C)(C)(C)OOC(C)(C)C | C8H18O2
solvent | phosphate | 0.1 M, 50 μL | P(=O)([O-])([O-])[O-]
product | 2-Amino-5-carbamoyl-5-methyl-1-pyrroline N-oxide | NC1=[N+](C(CC1)(C)C(N)=O)[O-] | C6H11N3O2
